US07982036B2
A mixture of 2-methylamino-6-aminopyridine (0.5 g, 4.04 mmol), 4,6-dichloropyrimidine (1.51 g, 10.13 mmol), DIPEA (1.5 g, 12.17 mmol) in n-butanol (5 mL) was heated at 120° C. for 16 h. The reaction mixture was cooled, was concentrated under reduced pressure and the residue was taken in dichloromethane (25 mL). The dichloromethane solution was washed with NaHCO3 solution (2 mL), water (2 mL) and brine (2 mL), was dried over Na2SO4 and was concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, 60-120, petroleum ether/ethyl acetate, 6/4) to give N2-(6-chloropyrimidin-4-yl) -N6-methylpyridine-2,6,diamine (0.3 g, 33%) as a yellow solid.

reactant | 2-methylamino-6-aminopyridine | 4.04 mmol, 0.5 g | CNC1=NC(=CC=C1)N | C6H9N3
reactant | 4,6-dichloropyrimidine | 10.13 mmol, 1.51 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | DIPEA | 12.17 mmol, 1.5 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | N2-(6-chloropyrimidin-4-yl) -N6-methylpyridine-2,6,diamine | 0.3 g, 33% | ClC1=CC(=NC=N1)NC1=NC(=CC=C1)NC | C10H10ClN5
